US06727256B1
(4-Phenoxyphenyl)-(7-(5-(2-(methanesulphonyl)ethylaminomethyl)furan-2-yl)-quinolin-4-yl)amine
5-(4-(4-phenoxyphenylamino)-quinolin-7-yl)furan-2-carbaldehyde (0.05 g) was reacted with 2-(methanesulphonyl)ethylamine (0.075 g) according to procedure D. Acidification with acetic acid (0.5 ml) followed by purification using a ion-exchange (SCX) Bond Elut™ cartridge, eluting with methanol-ammonia (9:1), concentration and trituration with diethylether afforded an off-white solid; δH [2H6] DMSO 8.44 (1H, d), 8.41 (1H, d), 8.11 (1H, s), 7.85 (1H, d), 7.44-7.35 (4H, m), 7.18-7.03 (6H, m), 6.79 (1H, d), 6.47 (1H, d), 3.82 (2H, s), 3.01 (2H, t); m/z 514 (M+1)+.

reactant | 5-(4-(4-phenoxyphenylamino)-quinolin-7-yl)furan-2-carbaldehyde | 0.05 g | O(C1=CC=CC=C1)C1=CC=C(C=C1)NC1=CC=NC2=CC(=CC=C12)C1=CC=C(O1)C=O | C26H18N2O3
reactant | 2-(methanesulphonyl)ethylamine | 0.075 g | CS(=O)(=O)CCN | C3H9NO2S
product | (4-Phenoxyphenyl)-(7-(5-(2-(methanesulphonyl)ethylaminomethyl)furan-2-yl)-quinolin-4-yl)amine | O(C1=CC=CC=C1)C1=CC=C(C=C1)NC1=CC=NC2=CC(=CC=C12)C=1OC(=CC1)CNCCS(=O)(=O)C | C29H27N3O4S
